Title: LM741 AC Gain
********************************

*Input Voltage Source
*********************
VCC 6 0 DC {Vcc}V
VEE 7 0 DC {Vee}V
Vin 1 0 DC -{Vos}mV
VinAC 2 1 AC 0.1mV 0
*********************
*Subcircuit
*X1 26 22 27 28 25
X1 6 7 2 0 3 LM741

*Input
********
.AC DEC 100 1 10MEG

*Output
.print AC format=noindex file={output_filename}
+ V(3)
+ V(2)

