Title: LM741 AC gain testbench
********************************

*Input Voltage Source
*********************
VCC 8 0 DC 0V
VEE 7 0 DC -15V
*********************
*Subcircuit
*X1 26 22 27 28 25
X1 6 7 1 2 3 LM741
VVCC 8 6 0
VIN1 1 0 {vos} ac 0.1
VIN2 2 0 0




*Input
********
.ac DEC 20 100 1MEG

*Output
.print ac format=noindex file={output_filename}
+ VDB(3)

