Title: LM741 AC CMRR
********************************

*Input Voltage Source
*********************
VCC 6 0 DC {Vcc}V
VEE 7 0 DC {Vee}V
VinAC 4 0 AC 1V 0

*Resistors
*********************
RA 1 0 100k
RB 4 1 100k
RC 4 2 100k
RD 3 2 100k

*Subcircuit
*********************
*X1 26 22 27 28 25
X1 6 7 1 2 3 LM741

*Input
********
.AC DEC 10 1 10MEG

*Output
.print AC format=noindex file={output_filename}
+ V(3)
+ V(4)